US09403801B2
Step 3) 5-chloro-N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine
To a suspension of tert-butyl 9-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)-3-azaspiro[5.5]undecane-3-carboxylate (330 mg, 0.67 mmol) in dichloromethane (15 mL) was added the solution of HCl in EtOAc (3 mL, 12 mmol). The reaction mixture was stirred at rt for 2 h and then adjust to pH=8-9 with the solution of saturated NaHCO3. The resulting mixture was diluted with 20 mL of H2O and exacted with a mixture of DCM and MeOH (10/1, 10 mL×3). The combine organic layers were washed with brine (20 mL×1), then over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash silica gel column chromatography (DCM/MeOH (v/v)=10/1 to 5/1) to give the title compound as a yellow solid (170 mg, 64.8%).

reactant | tert-butyl 9-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 0.67 mmol, 330 mg | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)N(C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)C | C24H36ClN7O2
reactant | HCl | Cl | ClH
reactant | EtOAc | 12 mmol, 3 mL | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | H2O | 20 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM MeOH | 10 mL | C(Cl)Cl.CO
product | 5-chloro-N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine | 170 mg, 64.8% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)N(C1CCC2(CCNCC2)CC1)C | C19H28ClN7
